US08278482B2
To a solution of 2-(3-amino-N,3-dimethylbutanamido)-N,N,N-trimethylethanaminium hydrochloride (511 mg, 2.0 mmol) in methanol (40 ml) was added tert-butylhypochlorite (0.77 g, 7.1 mmol). The mixture was stirred for 1 hour at room temperature. The reaction mixture was concentrated in vacuo, and purified by prep-HPLC to give 253 mg (39%) of 2-(3-(dichloroamino)-N,3-dimethylbutanamido)-N,N,N-trimethylethanaminium chloride. 1H NMR (D2O) δ 3.88 (t, J=5.4 Hz, 2 H), 3.53 (t, J=5.4, 2 H), 3.26 (s, 3 H), 3.21 (s, 9 H), 2.98 (s, 2 H), 1.51 (s, 6 H); calc. for C11H24C12N3O+: 284.13, Found: 284.1 (M+).

reactant | 2-(3-amino-N,3-dimethylbutanamido)-N,N,N-trimethylethanaminium hydrochloride | 2.0 mmol, 511 mg | Cl.NC(CC(=O)N(C)CC[N+](C)(C)C)(C)C
reactant | tert-butylhypochlorite | 7.1 mmol, 0.77 g | C(C)(C)(C)OCl | C4H9ClO
solvent | methanol | 40 ml | CO | CH4O
product | 2-(3-(dichloroamino)-N,3-dimethylbutanamido)-N,N,N-trimethylethanaminium chloride | 253 mg, 39% | [Cl-].ClN(C(CC(=O)N(C)CC[N+](C)(C)C)(C)C)Cl | InChI=1S/C11H24Cl2N3O.ClH/c1-11(2,15(12)13)9-10(17)14(3)7-8-16(4,5)6;/h7-9H2,1-6H3;1H/q+1;/p-1
